US06387919B1
4-[N′-(5-Nitro-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]-benzenesulfonamide (Z isomer)
The title compound was prepared from 5-nitro-1H-indole-2,3-dione (Gassman, et al., Journal of Organic Chemistry 1977, 42, 1344-8) and 4-sulfonamidophenylhydrazine hydrochloride according to Procedure G in 94% yield: 1H NMR (DMSO-d6): δ 7.14 (d, J=8.6 Hz, 1H), 7.33 (s, 2H), 7.75 (d, J=8.8 Hz, 2H), 7.84 (d, J=8.8 Hz, 2H), 8.23 (dd, J=2.2, 8.6 Hz, 1H), 8.42 (d, J=2.2 Hz, 1H), 11.76 (s, 1H), 12.78 (s, 1H). Anal. Calcd for C14H11N5O5S: C, 46.54, H, 3.07; N, 19.38. Found C, 46.76, H, 3.13; N, 19.23.

reactant | 5-nitro-1H-indole-2,3-dione | [N+](=O)([O-])C=1C=C2C(C(NC2=CC1)=O)=O | C8H4N2O4
reactant | 4-sulfonamidophenylhydrazine hydrochloride | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
product | 4-[N′-(5-Nitro-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]-benzenesulfonamide | 94% yield | [N+](=O)([O-])C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(=O)(=O)N | C14H11N5O5S
